data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3620,4139,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([CH3:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:15]([CH3:16])([C:17]([CH3:18])=[O:19])[N:14]=[C:13]1[C:11]([CH3:10])=[O:12],water,298.15,18.73773180637752,-25.002073883234893
4944,5630,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16](=[O:17])[O:18][CH3:19])=[N+:20]([CH3:21])[C-:22]([CH3:23])[C:24]([CH3:25])=[O:26]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:22]([CH3:23])([C:24]([CH3:25])=[O:26])[N:20]([CH3:21])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16](=[O:17])[O:18][CH3:19],water,298.15,30.018110521465893,-0.9798963163496314
1513,1668,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[C:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[N:15]=[C:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,5.182082608118366,-61.64689793399872
4402,5034,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([O+:12]=[C:13]([CH3:14])[C:15](=[O:16])[O:17][CH3:18])[C:19](=[O:20])[NH:21][CH3:22]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:19](=[O:20])[NH:21][CH3:22])[O:12][C:13]1([CH3:14])[C:15](=[O:16])[O:17][CH3:18],water,298.15,14.937344649830644,-38.06296302017908
3343,3792,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C:7](=[NH+:8][C-:9]([CH3:10])[CH3:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH2:1]1[CH2:2][C:9]([CH3:10])([CH3:11])[NH:8][C:7]1([C:5]([O:4][CH3:3])=[O:6])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,20.50834531589611,-23.788276695474657
1106,1204,[CH3:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2.[CH3:9][NH:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22](=[O:23])[O:24][CH3:25]>>[CH3:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)=[N:14][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[C:22](=[O:23])[O:24][CH3:25],water,298.15,16.749295790338874,-32.09086983937913
2972,3321,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH:5]#[N+:6][C-:7]([C:8]#[N:9])[C:10](=[O:11])[NH:12][CH3:13]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:7]([C:8]#[N:9])([C:10](=[O:11])[NH:12][CH3:13])[N:6]=[CH:5]1,water,298.15,15.71333126852604,-43.6405305442494
2028,2251,[CH3:13][O:14][C:15](=[O:16])[c-:17]1[c:18](=[O:19])[o:20][c:21](-[c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[n+:28]1[CH3:29].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]1([C:15]([O:14][CH3:13])=[O:16])[C:18](=[O:19])[O:20][C:21]2([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[N:28]1[CH3:29],water,298.15,42.66121967641918,15.818264810010795
43,50,[CH2-:9][N+:10]#[C:11][C:12](=[O:13])[NH:14][CH3:15].[F:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[C:11]([C:12](=[O:13])[NH:14][CH3:15])=[N:10][CH2:9]2,water,298.15,15.650014255362608,-65.92568266265953
4697,5354,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]#[N+:13][C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:12]([CH3:11])=[N:13][C:14]2([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,16.559476154052,-26.691099352135897
2314,2570,[CH3:15][C:16](=[O:17])[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)=[N+:25]([CH3:26])[CH-:27][c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[CH:27]([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[N:25]([CH3:26])[C:18]2([C:16]([CH3:15])=[O:17])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,25.561363629776192,-40.63474407408727
2409,2675,[CH3:19][NH:20][C:21](=[O:22])[CH:23]=[NH+:24][C-:25]([CH3:26])[C:27](=[O:28])[O:29][CH3:30].[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([Cl:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([Cl:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[CH:23]([C:21]([NH:20][CH3:19])=[O:22])[NH:24][C:25]2([CH3:26])[C:27](=[O:28])[O:29][CH3:30],water,298.15,19.4033040860362,-29.87620488823228
